Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
Dysuria  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F with hx of COPD, hepatitis C, HTN, DLP, GERD, 
fibromyalgia, and gastritis presenting for pyelonephritis.  
.  
The patient is a poor historian and tells and inconsistent 
history, but reports that for the past ___ days, she has 
experienced rigth sided low back, flank, and right abdominal 
pain radiating to her right groin. She also reports foul 
smelling urine and dysuria. Denies hematuria. She also had 
nausea/vomiting for the past several days and stopped eating for 
the past few days. She denies sick contacts, and reports her 
chronic, intermittent diarrhea is unchanged from baseline.  
.  
In the ED, initial VS: 97.4 124 130/83 16 98%  
The patient reportedly complained of lightheadedness in the ED 
on intial presentation which resolved after 1L NS and 1L LR with 
banana bag. She underwent a CT abd/pelvis that showed bilateral 
pyelonephritis. She was given Ceftriaxone 2 gm IV, Ciprofloxacin 
400 mg IV, Dilaudid 1 mg IV and 0.5 mg IV. Most Recent Vitals: 
98.9po, 96, 20, 140/92, 100%RA  
.  
On the floor, the patient reported continued right sided flank, 
low back, abdominal, and groin discomfort.  
.  
REVIEW OF SYSTEMS:  
Denies chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, hematuria.  

 
Past Medical History:
COPD (never formally dx by spirometry, bullous emphysema on CT  
imaging ___  
Hepatitis C (stage ___ fibrosis per liver bx ___  
HTN (poorly controlled at b/l, non compliant with meds; P-MIBI  
negative in ___, stress-Echo ___ EF 60%, trivial MR, no  
inducible ischemia)  
HLD  
Peripheral neuropathy  
PVD (L subclavian stenosis seen on CTA ___ and MRA ___  
and RE arterial insufficiency; ABI showing minimal disease below 
 
the knee at the tibial level on ___  
Depression, requiring hospitalization in past  
h/o polysubstance abuse, including cocaine and iv drug use, and  

on-going alcohol and tobacco use  
Hiatal hernia, s/p nissen fundoplication  
GERD  
esophageal stricture (Schatzkis ring)  
Fe def anemia  
Fibromyalgia  
Cervical spondylosis  
Stress incontinence  
Osteoarthritis 
 
Social History:
___
Family History:
Mother: CAD, deceased. 9 siblings, one deceased (cause unknown). 
Four children, all healthy. 
 
Physical Exam:
VS - 98.5 133/84 110 18 97%RA  
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - EOMI, sclerae anicteric, MMM  
NECK - Supple  
HEART - PMI non-displaced, RRR, nl S1-S2, no MRG  
LUNGS - CTAB, no r/rh/wh, good air movement, resp unlabored, no 
accessory muscle use. Left low back pain. (+)CVA tenderness, 
R>L.  
ABDOMEN - NABS, soft, moderate distension, moderate tenderness 
on the right quadrant diffusely  
EXTREMITIES - WWP, no c/c/e, 2+ DP pulses.  

 
Pertinent Results:
Admission labs
___ 05:35PM BLOOD WBC-13.0*# RBC-3.83* Hgb-13.0 Hct-36.8 
MCV-96 MCH-33.8* MCHC-35.2* RDW-12.7 Plt ___
___ 05:35PM BLOOD Neuts-84.4* Lymphs-9.0* Monos-5.4 Eos-0.2 
Baso-1.1
___ 05:35PM BLOOD Glucose-103* UreaN-15 Creat-1.0 Na-130* 
K-3.4 Cl-98 HCO3-20* AnGap-15
___ 05:35PM BLOOD ALT-26 AST-23 AlkPhos-168* TotBili-0.4
___ 05:35PM BLOOD Albumin-3.6
___ 08:00PM BLOOD Lactate-1.0

CXR ___: Stable cardiac and mediastinal contours. Lungs appear 
well inflated. The interstitium is slightly prominent which may 
be related to the patient's underlying emphysema, small airways 
disease, or age-related changes. No focal airspace consolidation 
is seen to suggest pneumonia. There is no evidence of pulmonary 
edema. No pneumothorax or pleural effusions. Prominent amount of 
gas within the stomach. 

CT abd/pelvis ___: Right-sided pyelonephritis; perinephric 
inflammation of the left kidney as well. 

UCx:                              ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

 
Brief Hospital Course:
___ y/o F with hx of COPD, hepatitis C, HTN, DLP, GERD, 
fibromyalgia, and gastritis presenting for pyelonephritis.  
.  
# Pyelonephritis: CT findings and micro data as above.  Was 
treated with ceftriaxone and ciprofloxacin, which was later 
narrowed to cipro monotherapy.  She was asymptomatic by day of 
discharge, with stable vital signs, and was discharged with 
prescription to complete seven day course of antibiotics.  ECG 
was checked to assess QTc interval on ciprofloxacin, which was 
normal.
.  
#. Hyponatremia: Resolved with IV fluids on night of admission.  
Likely due to volume depletion in setting of poor PO intake and 
nausea.
.  
INACTIVE ISSUES:
#. h/o Alcoholism: Pt received banana bag in ED, was written for 
___, but did not require any benzodiazepines.
.  
#. COPD: Pt took her home regimen of Advair, Tiotropium, and 
Albuterol.  
.  
#. Hepatitis C, Genotype 1:  LFTs were normal.  Had no RUQ 
symptoms.
.  
#  Hypertension: She continued her home valsartan and 
nifedipine.  
.  
CODE: Confirmed Full Code
.
TRANSITIONAL:  Pt was instructed to call her PCP's office to 
coordinate follow up appointment.  Also, blood cultures were 
still pending at time of discharge.
 
Medications on Admission:
1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig:  
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for  
dyspnea, wheeze.  
2. fexofenadine 180 mg Tablet Sig: One (1) Tablet PO once a day. 
 
3. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig:  

One (1) inhalation Inhalation BID (2 times a day).  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. nifedipine 30 mg Tablet Extended Release Sig: One (1) Tablet  

Extended Release PO DAILY (Daily).  
6. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet,  

Sublingual Sublingual PRN (as needed) as needed for chest pain.  

7. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One  
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
8. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig:  
One (1) inhlalation Inhalation DAILY (Daily).  
9. valsartan 320 mg Tablet Sig: One (1) Tablet PO once a day.  
10. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, PO DAILY 
 
11. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID  
12. ferrous sulfate 300 mg (60 mg iron) Tablet Sig: One (1)  
Tablet PO TID (3 times a day).  
13. multivitamin Tablet Sig: One (1) Tablet PO once a day.  
14. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID prn  
15. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY  
16. acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H  
17. sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID  
18. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea for 4 
 
days. 
 
Discharge Medications:
1. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for dyspnea, 
wheeze.  
2. fexofenadine 60 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. nifedipine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).  
6. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
7. valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
8. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
9. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
10. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO three times a day.  
11. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
13. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Acetaminophen Extra Strength 500 mg Tablet Sig: One (1) 
Tablet PO every six (6) hours as needed for pain.  
15. sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
16. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.  
17. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
18. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours).
Disp:*11 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Pyelonephritis
.
SECONDARY DIAGNOSES:
Chronic obstructive pulmonary disease (COPD)
Hepatitis C
Hypertension
Hyperlipidemia
Peripheral neuropathy  
Peripheral vascular disease
Depression
Polysubstance abuse
Anemia
Fibromyalgia  
Osteoarthritis  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted to ___ for pain in your flank and groin, and 
pain with urination, likely due to infection of your urinary 
tract and kidney.  A CT scan showed that your right kidney was 
inflamed.  You were given antibiotics, initially through an IV 
line, to treat the infection.  Before you left, your culture 
showed that the infection was due to a bacteria called E. Coli, 
but we did not yet have specific information about what 
antibiotics it will be susceptible to.  Since you are feeling 
better, we can presume that the antibiotics are working.  Please 
discuss this further with your PCP.
.
The following changes were made to your medications:
-Please CONTINUE taking CIPROFLOXACIN 500 mg tablets, one tablet 
by mouth every twelve hours (twice daily) for an additional five 
days (last dose on the morning of ___.  We have checked an 
electrocardiogram of your heart to make sure this medication is 
safe for you.
-Please discuss your dose of pantoprazole with your PCP.  Our 
records indicated you were taking a different dose than what you 
told us.
.
It is important that you follow up with your primary care 
physician ___ at ___ 
(___) on ___.  Please make him aware that one of 
your liver enzymes, alkaline phosphatase, was elevated and 
should be followed up. Additionally, your antibiotics and some 
of your medications can cause changes to your EKG.
 
Followup Instructions:
___